US04272507
2.44 g (10 mmoles) of 3-(2,6-dichloroanilino)thiophen, 1.01 g of triethylamine and 1.37 g (10 mmoles) of chlorooxalic acid ethyl ester are stirred in 20 ml of tetrahydrofuran at room temperature for 10 hours. 100 ml each of water and ethyl acetate are added, and the organic phase is dried and concentrated. Recrystallization of the residue from ethanol gives 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid ethyl ester.

reactant | 3-(2,6-dichloroanilino)thiophen | 10 mmoles, 2.44 g | ClC1=C(NC2=CSC=C2)C(=CC=C1)Cl | C10H7Cl2NS
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | chlorooxalic acid ethyl ester | 10 mmoles, 1.37 g | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid ethyl ester | C(C)OC(C(=O)C=1SC=CC1NC1=C(C=CC=C1Cl)Cl)=O | C14H11Cl2NO3S
